US06867161B1
To an ethanol solution (10.4 ml) containing sodium hydride (0.049 g, 1.13 mmol, 55% in oil) were added diethyl allylmalonate (3.0 g, 15 mmol) and methyl vinyl ketone (1.39 g, 19.9 mmol). The reaction liquid was stirred at room temperature for 22 hours. After treatment and purification as in Referential Example 1, there was obtained 3.56 g of 5,5-dicarboethoxy-7-octen-2-on (yields: 88%).

reactant | sodium hydride | 1.13 mmol, 0.049 g | [H-].[Na+]
reactant | diethyl allylmalonate | 15 mmol, 3.0 g | C(C=C)C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | methyl vinyl ketone | 19.9 mmol, 1.39 g | C(=C)C(=O)C | C4H6O
solvent | ethanol | 10.4 ml | C(C)O | C2H6O
product | 5,5-dicarboethoxy-7-octen-2-on | 3.56 g, 88% | C(=O)(OCC)C(CCC(C)=O)(CC=C)C(=O)OCC | C14H22O5
